US05380926
Preparation of 4-Hydroxy-3,5,6-trifluoro-N-methylphthalimide
Mixed together were 48 g of a mixture of 4-hydroxy-3,5,6-trifluoro-N-methylphthalamic acid and 3-hydroxy-2,4,5-trifluorobenzamide (preparation given in Example 1 of U.S. Pat. No. 5,233,082) and 200 mL of toluene. The mixture was heated to reflux and water was collected in a Barret trap. After all the water had been collected, the mixture was cooled and the toluene evaporated under vacuum. A total of 40.88 g of solids were collected. This material was assayed as 75% 4-hydroxy-3,5,6-trifluoro-N-methylphthalimide and 11% 3-hydroxy-2,4,5-trifluoro-N-methylbenzamide. For the N-methylphthalimide: 19F nuclear magnetic resonance (NMR) (ppm acetone d6): -136.9 (m) , -141.5 (m) , -147.8 (m) .

reactant | 4-hydroxy-3,5,6-trifluoro-N-methylphthalamic acid | OC=1C(=C(C(C(=O)O)=C(C1F)F)C(=O)NC)F | C9H6F3NO4
reactant | 3-hydroxy-2,4,5-trifluorobenzamide | OC=1C(=C(C(=O)N)C=C(C1F)F)F | C7H4F3NO2
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
product | 4-Hydroxy-3,5,6-trifluoro-N-methylphthalimide | OC=1C(=C2C(C(=O)N(C2=O)C)=C(C1F)F)F | C9H4F3NO3
